US06919331B2
The procedure for the preparation of [2-(3-cyclopropyl-2,4-dioxo-3,4-dihydro-2H-quinazolin-1-ylmethyl)-1-(4-fluoro-butyl)-1H-benzoimidazol-5-ylmethyl]-carbamic acid tert-butyl ester was followed starting from [1-(4-hydroxy-butyl)-2-(4-methoxy-2-oxo-2H-quinolin-1-ylmethyl)-1H-benzoimidazol-5-ylmethyl]-carbamic acid tert-butyl ester (89 mg, 0.18 mmol). Purification by flash chromatography (eluent hexane-acetone 1:1, 1:2) afforded [1-(4-fluoro-butyl)-2-(4-methoxy-2-oxo-2H-quinolin-1-ylmethyl)-1H-benzoimidazol-5-ylmethyl]-carbamic acid tert-butyl ester, that was further purified by preparative HPLC (gradient 50-70% B, 15 min) to furnish the title compound (20 mg, 22%) as a colorless oil:

reactant | [2-(3-cyclopropyl-2,4-dioxo-3,4-dihydro-2H-quinazolin-1-ylmethyl)-1-(4-fluoro-butyl)-1H-benzoimidazol-5-ylmethyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCC1=CC2=C(N(C(=N2)CN2C(N(C(C3=CC=CC=C23)=O)C2CC2)=O)CCCCF)C=C1)=O | C29H34FN5O4
reactant | [1-(4-hydroxy-butyl)-2-(4-methoxy-2-oxo-2H-quinolin-1-ylmethyl)-1H-benzoimidazol-5-ylmethyl]-carbamic acid tert-butyl ester | 0.18 mmol, 89 mg | C(C)(C)(C)OC(NCC1=CC2=C(N(C(=N2)CN2C(C=C(C3=CC=CC=C23)OC)=O)CCCCO)C=C1)=O | C28H34N4O5
product | [1-(4-fluoro-butyl)-2-(4-methoxy-2-oxo-2H-quinolin-1-ylmethyl)-1H-benzoimidazol-5-ylmethyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCC1=CC2=C(N(C(=N2)CN2C(C=C(C3=CC=CC=C23)OC)=O)CCCCF)C=C1)=O | C28H33FN4O4
